US06548499B1
2,3-Dibromo-6,7-dichloroquinoxaline
6,7-Dichloro-1,4-dihydro-quinoxaline-2,3-dione (5.39 g, 23.3 mmol) and phosphorus pentabromide (20.1 g, 46.7 mmol) were charged in a 100 mL round-bottom flask equipped with a condenser with an outlet half immerged in 10% NaOH aqueous solution (to absorb HBr generated during the reaction). The reaction was heated at 155° C. using an oil-bath for 2 hours when the formation of HBr ceased. The reaction content was poured into ice-water (100 mL) and basified with NH4OH. After filtration, the solid was dried and recrystallized using EtOH to give the desired product as a white solid (7.84 g, 94% yield): mp 169-70° C.; Rf=0.50, CH2Cl2; IR (KBr, cm−1) 3088, 1539, 1451, 1240, 1128, 964, 997; 1H NMR (CDCl3) δ 8.13 (s, 2H); 13C NMR (CDCl3) δ 142.4, 139.7, 136.3; MS (ACPI), m/z 338.4 (MH+); Anal. Calcd for C8H2N2Cl2Br2: C, 26.93; H, 0.56; N, 7.85. Found: C, 26.93; H, 0.56; N, 7.86.

reactant | 6,7-Dichloro-1,4-dihydro-quinoxaline-2,3-dione | 23.3 mmol, 5.39 g | ClC=1C=C2NC(C(NC2=CC1Cl)=O)=O | C8H4Cl2N2O2
reactant | phosphorus pentabromide | 46.7 mmol, 20.1 g | P(Br)(Br)(Br)(Br)Br | Br5P
reactant | HBr | Br | BrH
reactant | NH4OH | [NH4+].[OH-]
solvent | NaOH | [OH-].[Na+]
product | 2,3-Dibromo-6,7-dichloroquinoxaline | 7.84 g, 94% yield | BrC1=NC2=CC(=C(C=C2N=C1Br)Cl)Cl | C8H2Br2Cl2N2
